US07855294B2
1) 1′-Methyl-spiro[2,3-dihydro-1H-indole-3,4′-piperidine]
In a nitrogen atmosphere, 3.8 mL of 65% sodium-bis(2-methoxyethoxy)aluminium hydride-toluene solution was added to toluene (20 mL) solution of 1 g of benzyl 1-methanesulfonyl-spiro[2,3-dihydro-1H-indole-3,4′-piperidine]-1′-carboxylate (prepared according to the method described in Tetrahedron, 1997, 53, 10983-10992), and refluxed for 3 hours. The reaction liquid was cooled to 0° C., poured into aqueous 1 M sodium hydroxide solution at that temperature, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated saline water, and dried with anhydrous magnesium sulfate. The solvent was evaporated off under reduced pressure, and the residue was separated and purified through silica gel column chromatography (aqueous 1% ammonia, chloroform/methanol=5/1) to obtain 0.32 g of the entitled compound.

reactant | sodium bis(2-methoxyethoxy)aluminium hydride toluene | 3.8 mL | [Na].[H-].COCCO[Al+]OCCOC.C1(=CC=CC=C1)C
reactant | benzyl 1-methanesulfonyl-spiro[2,3-dihydro-1H-indole-3,4′-piperidine]-1′-carboxylate | 1 g | CS(=O)(=O)N1CC2(CCN(CC2)C(=O)OCC2=CC=CC=C2)C2=CC=CC=C12 | C21H24N2O4S
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1′-Methyl-spiro[2,3-dihydro-1H-indole-3,4′-piperidine] | 0.32 g | CN1CCC2(CC1)CNC1=CC=CC=C12 | C13H18N2
